US04336332
100 ml of a nutrient medium, containing 1% cornsteep liquor and 1% glucose, were adjusted to pH 6.5 and, after sterilization, inoculated with the mycelium of IFO 6469. After incubation at 26.5° on the rotary shaking machine during 22 hours, 100 mg of 17β-hydroxy-4-androsten-3-one in 1 ml of dimethyl sulphoxide were added and the incubation was continued at 26.5° for a further 8 days. Thereafter, the fermentation solution was filtered, the filtrate was extracted with ethyl acetate and concentrated to a small volume and under reduced pressure. The concentrate was chromatographed on silicic acid with chloroform-acetone. There were obtained 17.9 mg of 7α,17β-dihydroxy-4-androsten-3-one.

reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | 17β-hydroxy-4-androsten-3-one | 100 mg | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O | C19H28O2
solvent | dimethyl sulphoxide | 1 ml | CS(=O)C | C2H6OS
product | 7α,17β-dihydroxy-4-androsten-3-one | 17.9 mg | O[C@H]1[C@H]2[C@@H]3CC[C@@H]([C@@]3(C)CC[C@@H]2[C@]2(CCC(C=C2C1)=O)C)O | C19H28O3
